* C:\EDesign344\GitRepo\LTSpice\E344_23782684_A1\E344_23782684_A1.asc
V2 N001 0 5
RSense5V N001 5V 1µ
R_sense N006 R_sense_V 0.01
I1 N006 R_sense_V PWL file=PWL.csv AC 0
V1 N006 0 SINE(0m 0m 1000) AC 1
R1 V_current 0 10Meg
XU2 N003 N005 5V 0 N004 LTC6078
R2 N002 R_sense_V 16k
C1 0 N002 0.1µ
R3 N005 0 660
R4 N004 N005 560k
C2 0 N003 0.1µ
R5 N003 N002 16k
R6 V_current 0 68k
R7 V_current N004 33k
.tran 0 {transtop} 0
.include A1cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name\n  * Use only VSupply for power
* Config file:
* Analysis setup:
* =============================\nREPLACE WITH YOUR DETAILS\nE. Stewdent.,  00024601\n=============================
* ==========================================\nYour circuit goes here. Feel free to move things around. \n==========================================
* PLEASE WAIT FOR YOUR SIMULATION TO FINISH BEFORE SUBMITTING.
* 5V power supply\n(input to your circuit)
* Current sense R voltage\n(input to your circuit)
* Conditioned current sense R\n(output from your circuit)
.lib LTC5.lib
.backanno
.end
